US05455258
N-(t-Butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3(R)-(3-picolyloxy)butanamide (1.3 g, 2.4 mmol) is dissolved in methylene chloride (50 mL) containing ethanol (0.14 mL, 2.4 mmol) in a round bottom flask, and the reaction is cooled to -10° C. Hydrochloric acid gas (from a lecture bottle) is bubbled through for 20 minutes. The reaction is sealed, allowed to slowly warm to room temperature, and stirred for two days. The solvent is reduced to 1/3 the volume by evaporation and the residue is triturated with ether. The mixture is filtered, the filer cake is removed and dried in vacuo to provide N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3(R)-(3-picolyloxy)butanamide dihydrochloride as a white solid; [α]D25 =+35.26° (c=5.58, DMSO).

reactant | N-(t-Butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3(R)-(3-picolyloxy)butanamide | 2.4 mmol, 1.3 g | C(C)(C)(C)ONC([C@@H]([C@@H](C)OCC=1C=NC=CC1)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C27H34N4O6S
reactant | ethanol | 2.4 mmol, 0.14 mL | C(C)O | C2H6O
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3(R)-(3-picolyloxy)butanamide dihydrochloride | Cl.Cl.ONC([C@@H]([C@@H](C)OCC=1C=NC=CC1)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | InChI=1S/C23H26N4O6S.2ClH/c1-17(33-16-19-6-4-12-25-14-19)22(23(28)26-29)27(15-18-5-3-11-24-13-18)34(30,31)21-9-7-20(32-2)8-10-21;;/h3-14,17,22,29H,15-16H2,1-2H3,(H,26,28);2*1H/t17-,22-;;/m1../s1
